US08957064B2
4-(3-methyl-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde
The compound was synthesized in a manner according to 7-(4-formylphenyl)-6-phenylimidazo[1,2-a]pyrimidine-3-carbonitrile by using MeZnCl instead of Zn and ZnCN2.

reactant | 7-(4-formylphenyl)-6-phenylimidazo[1,2-a]pyrimidine-3-carbonitrile | C(=O)C1=CC=C(C=C1)C1=NC=2N(C=C1C1=CC=CC=C1)C(=CN2)C#N | C20H12N4O
reactant | MeZnCl | C[Zn]Cl
product | 4-(3-methyl-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde | CC1=CN=C2N1C=C(C(=N2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2 | C20H15N3O
